US06949552B2
0.25 g of 4-{1-(4-Fluorophenyl)-2-[4-(naphthalen-1-yl-butyl)piperazin-1-yl]-2-oxoethyl}-1-methylpiperidin-4-ol was dissolved in 3 ml of tetrahydrofuran, and 18 mg of lithium aluminum hydride was added, followed by stirring at 50° C. for 15 minutes. The reaction solution was cooled to room temperature and diluted with ether, and 25% aqueous ammonia solution was added dropwise. The precipitate was removed by Celite filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by a silica gel column chromatography (Chromatorex NH, hexane:ethyl acetate=4:1) to give 33 mg of 4-{1-(4-fluorophenyl)-2-[4-(naphthalen-1-yl-butyl)piperazin-1-yl]ethyl}-1-methylpiperidin-4-ol as an oil.

reactant | 4-{1-(4-Fluorophenyl)-2-[4-(naphthalen-1-yl-butyl)piperazin-1-yl]-2-oxoethyl}-1-methylpiperidin-4-ol | 0.25 g | FC1=CC=C(C=C1)C(C(=O)N1CCN(CC1)CCCCC1=CC=CC2=CC=CC=C12)C1(CCN(CC1)C)O | C32H40FN3O2
reactant | lithium aluminum hydride | 18 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | ammonia | N | H3N
product | 4-{1-(4-fluorophenyl)-2-[4-(naphthalen-1-yl-butyl)piperazin-1-yl]ethyl}-1-methylpiperidin-4-ol | 33 mg | FC1=CC=C(C=C1)C(CN1CCN(CC1)CCCCC1=CC=CC2=CC=CC=C12)C1(CCN(CC1)C)O | C32H42FN3O
